US07732460B2
(g) (4R/S)-3-Chloro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one
A solution of 3-chloro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (565 mg, 2.6 mol) in tert-butanol/water (25 ml/25 ml) was treated with AD-mix alpha/beta (3.5 g/3.5 g) and stirred overnight. Sodium sulphite (5 g) was added and the mixture was stirred for 1 hour. Ethyl acetate, saturated aqueous sodium bicarbonate solution and brine were added. The phases were separated and the aqueous phase was extracted twice more with ethyl acetate. The combined organic extracts were dried and evaporated. The crude material was chromatographed affording the product (300 mg).

reactant | 3-chloro-4-methylidene-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 2.6 mol, 565 mg | ClC=1C=NC=2C=CC(N3C2C1C(C3)=C)=O | C11H7ClN2O
reactant | AD-mix alpha | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Sodium sulphite | 5 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butanol water | 25 ml | C(C)(C)(C)O.O
solvent | brine | [Cl-].[Na+].O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R/S)-3-Chloro-4-hydroxy-4-(hydroxymethyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 300 mg | ClC=1C=NC=2C=CC(N3C2C1C(C3)(CO)O)=O | C11H9ClN2O3
